US05589474
(b) 2-Amino-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-thione
2-Amino-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-one (0.12 g was dissolved in toluene (20 ml). Phosphorus pentasulphide (0.11 g) was added to the solution and the whole was stirred under reflux for 16 hours and then cooled. Addition of water (40 ml) and separation of the phases gave, after evaporation of the dried organic layer, a yellow solid which was purified by column chromatography on silica gel and recrystallisation from ethanol to give the product as yellow needles (0.22 g, m/s. M- =258).

reactant | 2-Amino-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-one | NC=1C=CC2=C(C(NC3=C(S2)C=CC=C3)=O)C1 | C13H10N2OS
reactant | Phosphorus pentasulphide | 0.11 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | water | 40 ml | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Amino-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-thione | 0.22 g | NC=1C=CC2=C(C(NC3=C(S2)C=CC=C3)=S)C1 | C13H10N2S2
